US09126954B2
Next, a synthesis method of the hydroxy group-protecting agent 2 will be explained. To a 30 mL eggplant flask, 470.6 mg (1.50 m mol) of 6-benzyloxy-2-chloro-4-phenoxy-1,3,5-triazine, 3.00 mL of dichloromethane, 178.8 mg (1.90 m mol) of phenol and 0.390 mL (1.90 m mol) of N,N-diisopropylethylamine were added, and reacted at 0 degree under a nitrogen atmosphere for 4 hours. After the reaction, 50 mL of dichloromethane was added, which was washed with 20 mL of 1 N hydrochloric acid, 20 mL of 1 N hydrochloric acid, 20 mL of water and 20 mL of saturated salt water. A resulting organic phase was dried by magnesium sulfate, from which dichloromethane was distilled away to obtain 548.5 mg of 6-benzyloxy-2,4-diphenoxy-1,3,5-triazine (yield: 99%).

reactant | 6-benzyloxy-2-chloro-4-phenoxy-1,3,5-triazine | 470.6 mg | C(C1=CC=CC=C1)OC1=NC(=NC(=N1)Cl)OC1=CC=CC=C1 | C16H12ClN3O2
reactant | phenol | 178.8 mg | C1(=CC=CC=C1)O | C6H6O
reactant | N,N-diisopropylethylamine | 0.390 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.00 mL | ClCCl | CH2Cl2
product | 6-benzyloxy-2,4-diphenoxy-1,3,5-triazine | 548.5 mg, yield: 99% | C(C1=CC=CC=C1)OC1=NC(=NC(=N1)OC1=CC=CC=C1)OC1=CC=CC=C1 | C22H17N3O3
